US05086055
5-[2-[4-(2-Methoxyphenyl)-1-Piperazinyl]Ethyl]-3-Methyl-2-Oxazolidinone
This compound was prepared according to the procedure of Example 2. A mixture of 2.9 g (0.015 mol) of 1-(2-methoxyphenyl)piperazine (95%, Aldrich), 2.5 g (0.015 mol) of 5-(2-chloroethyl-3-methyl-2-oxazolidinone, 5.3 g (0.05 mol) of anhydrous sodium carbonate and 0.4 g of potassium iodide in 100 mL of 1-butanol gave 3.0 g (63%) of off-white solid, mp 107°-108.5° C. (2-propanol).

reactant | 1-(2-methoxyphenyl)piperazine | 0.015 mol, 2.9 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | 2-chloroethyl-3-methyl-2-oxazolidinone | ClCCC1N(C(OC1)=O)C | C6H10ClNO2
reactant | sodium carbonate | 0.05 mol, 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.4 g | [I-].[K+]
reactant | 1-butanol | 100 mL | C(CCC)O | C4H10O
solvent | 2-propanol | CC(C)O | C3H8O
product | 5-[2-[4-(2-Methoxyphenyl)-1-Piperazinyl]Ethyl]-3-Methyl-2-Oxazolidinone | 3.0 g, 63% | COC1=C(C=CC=C1)N1CCN(CC1)CCC1CN(C(O1)=O)C | C17H25N3O3
